US06605747B2
In a nitrogen-purged 1-L stainless steel autoclave, 7.3 g (18.1 mmol) of 1-(4-(trans-4-propylcyclohexyl)cyclohexene-1-yl-difluoromethoxy)-3,4,5-trifluorobenzene obtained in the second step was dissolved in 250 ml of a mixed solution of equal amount of toluene/ethanol. 0.6 g of 5% palladium carbon catalyst was added thereto, and the mixture was stirred at room temperature under a hydrogen pressure of 0.8 MPa for 5 hours. The catalyst was separated from the reaction mixture by filtration, and then the solvent was distilled off under reduced pressure. The concentrated residue was purified by means of a silica gel column chromatography with heptane as a developing solvent and further recrystallized from a mixed solution of equal amount of heptane/ethanol to obtain 5.1 g of 1-(trans-4-(trans-4-propylcyclohexyl)-cyclohexyldifluoromethoxy)-3,4,5-trifluorobenzene as colorless crystals.

reactant | 1-(4-(trans-4-propylcyclohexyl)cyclohexene-1-yl-difluoromethoxy)-3,4,5-trifluorobenzene | 18.1 mmol, 7.3 g | C(CC)[C@@H]1CC[C@H](CC1)C1CC=C(CC1)C(OC1=CC(=C(C(=C1)F)F)F)(F)F | C22H27F5O
solvent | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
catalyst | palladium carbon | 0.6 g | [C].[Pd]
product | 1-(trans-4-(trans-4-propylcyclohexyl)-cyclohexyldifluoromethoxy)-3,4,5-trifluorobenzene | 5.1 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(OC1=CC(=C(C(=C1)F)F)F)(F)F | C22H29F5O
